US08110681B2
A mixture of ethyl 2-(bromomethyl)-5-chlorobenzoate (0.553 g, 1.99 mmol), 4-isopropylaniline (0.269 g, 1.99 mmol) and sodium ethoxide (0.406 g, 5.97 mmol) in ethanol (40 mL) was heated at reflux overnight. After this time, the mixture was cooled to room temperature and concentrated under vacuum. The mixture was partitioned between 1 N HCl and ethyl acetate. The organic layer was separated, washed with 1 N HCl, then with 1:1 water/brine solution, dried over sodium sulfate and filtered. Concentration under vacuum and recrystallization from ethyl acetate afforded 6-chloro-2-(4-isopropylphenyl)isoindolin-1-one (0.302 g, 53%) as an off-white solid: m.p. 206-209° C.; 1H NMR (500 MHz, CDCl3) δ 7.89 (d, J=1.9 Hz, 1H), 7.73 (dt, J=8.6, 2.7 Hz, 2H), 7.55 (dd, J=8.1, 1.9 Hz, 1H), 7.45 (d, J=8.0 Hz, 1H), 7.30 (dt, J=8.5, 2.5 Hz, 2H), 4.83 (s, 2H), 2.96-2.90 (m, 1H), 1.26 (d, 6H); ESI MS m/z 286 [M+H]+.

reactant | ethyl 2-(bromomethyl)-5-chlorobenzoate | 1.99 mmol, 0.553 g | BrCC1=C(C(=O)OCC)C=C(C=C1)Cl | C10H10BrClO2
reactant | 4-isopropylaniline | 1.99 mmol, 0.269 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | sodium ethoxide | 5.97 mmol, 0.406 g | [O-]CC.[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 6-chloro-2-(4-isopropylphenyl)isoindolin-1-one | 0.302 g, 53% | ClC1=CC=C2CN(C(C2=C1)=O)C1=CC=C(C=C1)C(C)C | C17H16ClNO
